Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with h/o bladder cancer s/p cystoprostatecyom 
with ileal loop conduit, gallbladder cancer sp resection, cyber 
knife and chemo, and frequent UTIs who presents with lethargy 
for 1 day. Pt states he was in his usual state of health, very 
active at work, when he started to feel lethargic yesterday 
afternoon after work. He came home and slept for most of the 
day. He reports feeling generalized body weakness, sweats, some 
bilateral hip pain, which he often feels when he has had UTIs in 
the past. He reports eating and drinking very little all day 
yesterday and subsequently noted decreased urine output. Denies 
any burning, no urinary urgency, no frequency, no suprapubic 
pain, no fevers at home, no chills.  
.  
In the ED, initial VS were T 99.4 HR 93 BP 171/77 16 99% RA. He 
was given 2L IVF, tylenol, and ciprofloxacin. He was sleepy but 
fully arousable. Exam was nonfocal. Labs significant for WBC 
12.0, lactate 3.0, Creat 1.6 (baseline 1.0-1.4). Given 2L IV 
fluid. UA showed leukos and bacteria. Vitals prior to transfer: 
T101.9 HR102 BP 154/84 20 98%2L.  
.  
Upon transfer to the floor, pt reports feeling stronger then 
earlier. He is noticed to be rigoring. Notes that he has had 
UTIs in the past, most recently in ___. Prior UTI bugs: E 
coli pan sensitive, MRSA and enterococcus (both found in blood 
cx and urine cx, throught to originate from UTI in ___, pan 
sensitive klebsiela oxytoca.  
.  
ROS: Denies headache, vision changes, rhinorrhea, congestion, 
sore throat, cough, shortness of breath, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
Past Oncologic History:
In ___, he underwent a cystoprostatectomy with ileal loop 
conduit and regional lymph node dissection for T3, N0, M0 
transitional cell bladder carcinoma.  A subsequent surveillance 
CT in ___ showed gallbladder wall thickening. MRCP showed 
concern for gallbladder cancer.  An exploratory laparotomy on 
___ revealed a likely cancer and resection was accomplished 
in segments IVB and V of the liver along with a portal 
lymphadenectomy.  The final pathology showed a moderately 
differentiated adenocarcinoma of the gallbladder invading the 
paramuscular connective tissue, pT2.  CA ___ was 287 
preoperatively.  He elected to begin single agent adjuvant 
therapy with Xeloda in ___ of this year.  After six doses, he 
developed chest pain at rest.  A cardiac catheterization was 
performed and it showed diffuse but low-grade cardiac disease 
and no critical lesions.  The Xeloda was discontinued and on the 
planned day one of Gemzar, he was hospitalized for MRSA 
bacteremia with a likely source in the urine.  He completed a 
four-week course of vancomycin and then underwent CyberKnife 
treatment to the right upper quadrant from ___ to ___.  
He was started on adjuvant single agent Gemzar on ___ at a 
1000 mg/m2; days 1, 18, and 15.  The dose was reduced by 10% for 
cycle two because of grade III thrombocytopenia.  His last dose 
of gemzar was ___. 
.
Other Past Medical History:  
Coronary artery disease
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit.
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___
Glaucoma
Osteopenia
Recurrent UTI: MRSA, Enterococcus, Pan sensitive E coli, Pan 
sensitive klebsiella

 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
Admission Exam:
VS - Temp 99.6 F, 132/60 BP , 60 HR , 18 R ,99 O2-sat % RA  
GENERAL - NAD, comfortable, appropriate, rigoring  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - distant heart sounds, RRR, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no rebound/guarding, has urostomy in 
place, no erythema of wound.  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

Discharge exam:
T 97.8, BP 130/58, HR 64, 96-100%RA
Comfortable, nad 
Cardiac: RRR< no mrg
Pulm: ctab, no crr
Abd: soft, nt, nd, pos bs, urostomy draining clear urine
Ext: no pedal edema, no calf tenderness

 
Pertinent Results:
Admission Labs:

___ 05:01PM   LACTATE-1.7
___ 11:10AM   WBC-12.0*# RBC-3.98* HGB-12.9* HCT-36.9* 
MCV-93 MCH-32.3* MCHC-34.8 RDW-14.8
___ 11:10AM   NEUTS-86.8* LYMPHS-6.6* MONOS-6.2 EOS-0.1 
BASOS-0.4
___ 11:17AM   LACTATE-3.0*

CXR ___:
Single frontal view of the chest was obtained. Relative density 
over the right costophrenic angle is felt to most likely be due 
to overlying 
soft tissue and technique. No definite focal consolidation, 
large pleural 
effusion or pneumothorax is seen. Cardiac and mediastinal 
silhouettes are 
stable. There is persistent mild elevation of the right 
hemidiaphragm. 

Urine culture: contaminate

Blood cultures from ___ and ___ pending

 
Brief Hospital Course:
___ M history of transitional cell CA sp cystoprostatectomy with 
ileal loop conduit ___, in remission), gallbladder carcinoma 
s/p ___, cyberknife and chemo (coompleted in 
___, recurrent UTIs, who presents with generalized weakness, 
fever, found to have positive UA, likely consistent with UTI.  
.  
UTI: Pt with fevers, generalized weakness, bilateral hip pain, 
rigors, leukocytosis and positive UA, with lactate=3, suggestive 
of UTI. Pt was started on empiric therapy with vancomycin and 
cefepime. Pt has abnormal GU anatomy, putting him at increased 
risk for complicated UTIs. He has history of MRSA, enterococcus, 
klebsiella and E. coli UTIs. Pt's prior klebsiella and E coli 
UTIs have all been sensitive to cipro. Urine cultures came back 
contaminated. He was switched to PO levofloxacin and will 
continue for 10 more days (total 14 day course of antibiotics). 
Pt symptoms improved and he was afebrile several days prior to 
discharge. Pt will follow up with urology outpatient to discuss 
benefit of prophylactic antibiotics given his history of 
recurrent UTIs.
.  
___: Pt with Cr 1.6 (baseline: 1.0-1.4). Likely pre-renal in 
setting of poor PO's and UTI. Given 2 L IVF in the ED. Cr 
improved to 1.1 at time of discharge.
.  
Tachycardia: Pt initially with HR in the low 100s and in sinus 
tachycardia, likely ___ acute infection and low volume status. 
Pt was given IVF and tachycardia resolved.     
.  
Anemia: HCT 37 on admission, after getting aggressive IVF-> HCT 
ranged from ___ and was stable. Baseline ___. Recent anemia 
panel unremarkable with ferritin, iron, B12 and folate all wnl.  

.  
CAD: Pt had chest pain while taking Xeloda chemotherapy in 
___. He had cardiac cath which showed diffuse disease but no 
critical lesion. The xeloda was then switched to Gemzar.  
Continued ASA 81, metoprolol tartate 12.5mg BID and simvastatin 
20. Initialy held the lisinopril in setting ___ and ___ 
restarted the day prior to discharge.
.  
HTN: Continue metoprolol tartate 12.5mg BID. Initialy held but 
then restarted lisinopril 10mg.  
.  
GERD: Ranitidine 150mg PRN for reflux symptoms.  
.  
Glaucoma: continued home eye drops. 
.  
Gallbladder Carcinoma: sp resection in ___, cyberknife and 
chemo (completed in ___. Stable with low ___ checked in 
___ and no evidence of disease progression, per recent Rad 
Onc note in ___.  
.  
#Bladder Cancer: s/p bladder resection with ileal conduit in 
___.  
Stable, per recent visit with Dr ___ month 

Pending Labs:
-Blood cultures from ___ and ___

Transition of Care:
-Full code, daughter ___ is proxy
-Pt ___ with Urology outpatient to discuss prophylactic 
antibiotics for UTIs.

 
Medications on Admission:
Bimatoprost 0.03% 1 drop to each eye qhs  
Brimonidine 0.15% each eye BID  
Lisinopril 10  
Metoprolol tartate 12.5mg BID  
Ranitidine 150mg daily prn  
Simvastatin 20  
Tylenol ___ prn BID  
Vit C 1000 daily  
ASA 81  
Calcium Vit D (___)  
MVT  
B complex ___ 

 
Discharge Medications:
1. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
2. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
3. B complex vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
6. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO BID (2 times a day).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. ascorbic acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
9. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID PRN 
() as needed for heartburn, chest pain.  
11. brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
12. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 10 days.
Disp:*10 Tablet(s)* Refills:*0*
14. bimatoprost 0.03 % Drops Sig: One (1)  Ophthalmic at 
bedtime: 1 drop to each eye at night.  
15. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO twice a day as 
needed for pain.  
16. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
17. B Complex     Capsule Sig: One (1) Capsule PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract Infection
Sinus Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for an Urinary tract 
infection. You were given antibiotics through your veins. You 
were then switched to oral antibiotics, levofloxacin, which you 
will take for 10 more days. Your symptoms improved.

Medication Changes:
START: Levofloxacin, continue this medication for 10 more days

Please resume your regular home medications as usual.
It was a pleasure providing care for you.
We have arranged folllow up appointments with someone from your 
primary care office, Dr ___, as well as Dr. ___ to discuss 
how to prevent future urinary tract infections.
 
Followup Instructions:
___